US06002008
4-Chloro-6-ethoxy-7-methoxyquinoline-3-carbonitrile
A mixture of 7.95 g (32.6 mmol) of 6-ethoxy-7-methoxy-4-oxo-1,4-dihydroquinoline-3-carbonitrile and 50 mL of phosphorous oxychloride was refluxed for 3 h 40 min. The phosphorous oxychloride was removed in vacuo and the residue was slurried with ice water. Solid NaHCO3 was added (pH8) and the product was collected by filtration, washed well with water and dried in vacuo (40° C.). The yield was 7.75 g of 4-chloro-6-ethoxy-7-methoxyquinoline-3-carbonitrile as a tan solid: mass spectrum (electrospray, m/e): M+H 262.8, 264.8.

reactant | 6-ethoxy-7-methoxy-4-oxo-1,4-dihydroquinoline-3-carbonitrile | 32.6 mmol, 7.95 g | C(C)OC=1C=C2C(C(=CNC2=CC1OC)C#N)=O | C13H12N2O3
reactant | phosphorous oxychloride | 50 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-ethoxy-7-methoxyquinoline-3-carbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OC)C#N | C13H11ClN2O2
